US06613743B2
N1-isobutoxy-4-methoxy-1-benzenesulfonamide.
Isobutoxyamine hydrochloride (7.96 mmol, 1.0 g), 4-methoxybenzenesulfonyl chloride (7.24 mmol, 1.5 g), diisopropylethylamine (18.09 mmol, 3.15 mL) and anhydrous THF (15 mL) were combined under nitrogen. The reaction stirred at room temperature for 15 hours. The reaction solution was concentrated to a white solid and partitioned between ethyl acetate and 1N HCl. The organic layer was separated and washed with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated under vacuum to yield an off-white colored solid. Rf: 0.5 (2:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ 7.84 (2H,d), 6.99 (2H,d), 6.81 (1H,s), 3.87 (3H,s), 3.74 (2H,d), 1.90 (1H,septet), 0.86 (6H,d).

reactant | Isobutoxyamine hydrochloride | 7.96 mmol, 1.0 g | Cl.C(C(C)C)ON
reactant | 4-methoxybenzenesulfonyl chloride | 7.24 mmol, 1.5 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | diisopropylethylamine | 18.09 mmol, 3.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N1-isobutoxy-4-methoxy-1-benzenesulfonamide | C(C(C)C)ONS(=O)(=O)C1=CC=C(C=C1)OC | C11H17NO4S
